* C:\Users\Nico trombetta\Documents\UTN\TC2\TeoriaDeCircuitos2\TPs_Semanal\KHN.asc
* Generated by LTspice 24.1.6 for Windows.
R1 N001 Vi 1
R2 Vo N001 1
R3 N002 N001 1
R4 N003 N002 1
C1 N004 N003 1
R5 N005 N004 1
C2 Vo N005 1
X§U1 N006 N001 +Vcc -Vcc N002 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U2 0 N003 +Vcc -Vcc N004 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U3 0 N005 +Vcc -Vcc Vo level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R6 N006 0 {1/(3*Q2-1)}
R7 N004 N006 1
V1 Vi 0 AC 1
.param Q2 0.707
.ac dec 1000 1m 100
.lib UniversalOpAmp1.lib
.backanno
.end
