* C:\Users\Nico trombetta\Documents\UTN\TC2\TeoriaDeCircuitos2\TPs_Semanal\MultipleFeedback.asc
* Generated by LTspice 24.1.6 for Windows.
X§U1 0 N002 +Vcc -Vcc Vo level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R3 N001 Vi 1
R2 N002 N001 1
R1 Vo N001 1
C1 N001 0 {3*Q3}
C2 Vo N002 {1/(3*Q3)}
V1 Vi 0 AC 1
.param Q3 1.932
.ac dec 1000 1m 100
.lib UniversalOpAmp1.lib
.backanno
.end
