* C:\Users\Nico trombetta\Documents\UTN\TC2\TeoriaDeCircuitos2\TPs_Semanal\Sallen-key.asc
* Generated by LTspice 24.1.6 for Windows.
X§U1 N002 N003 +Vcc -Vcc Vo level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N001 Vi 1
R2 N002 N001 1
C1 N002 0 {1/2*Q1}
R4 Vo N003 1
C2 Vo N001 {2*Q1}
V1 Vi 0 AC 1
.param Q1 0.5176
.ac dec 1000 1m 100
.lib UniversalOpAmp1.lib
.backanno
.end
